### PR TITLE
[Merged by Bors] - feat(CategoryTheory): `ContAction FintypeCat G` is a Galois category

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #42396
- [x] depends on: #42320

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/ContAction.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+  have hs (g : G) : ∃ (x : H), s g = g * x :=
+    ⟨⟨g⁻¹ * s g, QuotientGroup.eq.mp (Function.rightInverse_surjInv _ _).symm⟩, by simp⟩
+  let φ (x : (G ⧸ H.toSubgroup) × R.V) : R.V := s x.1 • x.2
+  have : (fun (x : G × ((forget₂ _ TopCat).obj R)) ↦ x.1 • x.2) = fun x ↦ φ ⟨x.1, x.2⟩ := by
+    ext ⟨g, v⟩
+    obtain ⟨x, eq⟩ := hs g
+    dsimp [φ]
+    rw [eq, ← smul_smul]
+    congr 1
+    exact ConcreteCategory.congr_hom (h _ x.prop).symm v
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Galois/ContAction.lean]:
```suggestion
    simpa [φ, eq, ← smul_smul] using! ConcreteCategory.congr_hom (h _ x.prop).symm v
```
While playing with this proof, I noticed that it appears that there is a missing rewriting lemma for the (definitional) equality
```
ConcreteCategory.hom (R.ρ g) v = g • v
```

File: Mathlib/CategoryTheory/Galois/ContAction.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+  rw [this]
+  fun_prop
+
+lemma isContinuous_eq_iSup :
+    isContinuous FintypeCat.{w} G = ⨆ (H : OpenSubgroup G), trivialOnSet _ H := by
+  refine le_antisymm (fun R (h : _) ↦ ?_) (by simpa using trivialOnSet_le_isContinuous)
+  change ContinuousSMul G R.V.obj at h
+  simp only [ObjectProperty.prop_iSup_iff]
+  exact ⟨OpenSubgroup.iInfOfFinite (fun (v : R.V) ↦ ⟨_, stabilizer_isOpen G v⟩),
+    fun g hg ↦ ConcreteCategory.hom_ext _ _ (fun v ↦ OpenSubgroup.iInfOfFinite_le _ v hg)⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Galois/ContAction.lean]: Note (not for this PR): following the pattern of most ext lemmas, the parameters `f` and `g` for ConcreteCategory.hom_ext should probably be made implicit.
```suggestion
    fun g hg ↦ ConcreteCategory.hom_ext _ _ fun v ↦ OpenSubgroup.iInfOfFinite_le _ v hg⟩
```

File: Mathlib/CategoryTheory/Galois/ContAction.lean [hunk 3]
```diff
@@ -0,0 +1,150 @@
...
+instance (S : Set G) : (trivialOnSet FintypeCat.{w} S).IsGaloisSubcategory where
+
+end Monoid
+
+section Group
+
+variable {G : Type*} [Group G] [HasForget₂ V TopCat] [TopologicalSpace G]
+  [IsTopologicalGroup G]
+
+lemma trivialOnSet_le_isContinuous (H : OpenSubgroup G) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Galois/ContAction.lean:92]:
```suggestion
/-- If an action of a topological group on a finite set is trivial on an open subgroup,
then it is continuous. -/
lemma trivialOnSet_le_isContinuous (H : OpenSubgroup G) :
```

File: Mathlib/CategoryTheory/Galois/ContAction.lean [hunk 4]
```diff
@@ -0,0 +1,150 @@
...
+    ext ⟨g, v⟩
+    obtain ⟨x, eq⟩ := hs g
+    dsimp [φ]
+    rw [eq, ← smul_smul]
+    congr 1
+    exact ConcreteCategory.congr_hom (h _ x.prop).symm v
+  rw [this]
+  fun_prop
+
+lemma isContinuous_eq_iSup :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Galois/ContAction.lean:109]:
```suggestion
/-- An action of a topological group on a finite set is continuous if and only if it is trivial
when restricted to some open subgroup. -/
lemma isContinuous_eq_iSup :
```

File: Mathlib/CategoryTheory/Galois/ContAction.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+  change ContinuousSMul G R.V.obj at h
+  simp only [ObjectProperty.prop_iSup_iff]
+  exact ⟨OpenSubgroup.iInfOfFinite (fun (v : R.V) ↦ ⟨_, stabilizer_isOpen G v⟩),
+    fun g hg ↦ ConcreteCategory.hom_ext _ _ (fun v ↦ OpenSubgroup.iInfOfFinite_le _ v hg)⟩
+
+instance : (isContinuous FintypeCat.{w} G).IsClosedUnderSubobjects := by
+  rw [isContinuous_eq_iSup]
+  infer_instance
+
+lemma exists_openSubgroup_of_isContinuous_of_finite
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Galois/ContAction.lean:123]:
```suggestion
/-- An action of a topological group on a finite set is continuous if and only if it is trivial
when restricted to some open subgroup. -/
lemma exists_openSubgroup_of_isContinuous_of_finite
```

**Review by robin-carlier — COMMENTED** [review]
LGTM, my only nitpick concerns the addition of some docstrings

**Comment by robin-carlier** [comment]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Galois/ContAction.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/ContAction.lean]: Thanks for the suggestion!

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
